US09024032B2
To a solution of 3-(benzyloxy)-1-(biphenyl-3-yl)pyridin-4(1H)-one (2.41 g, 6.8 mmol) in AcOH (68 mL) was added N-bromosuccinamide (2.67 g, 15 mmol) and the reaction mixture was stirred at room temperature. After 1 h, the mixture was concentrated under reduced pressure and purified by flash chromatography (80 g SiO2, 0-100% ethyl acetate/hexanes) to provide 3-(benzyloxy)-1-(biphenyl-3-yl)-5-bromopyridin-4(1H)-one. LC/MS (M+H)+ 432/434.

reactant | 3-(benzyloxy)-1-(biphenyl-3-yl)pyridin-4(1H)-one | 6.8 mmol, 2.41 g | C(C1=CC=CC=C1)OC1=CN(C=CC1=O)C=1C=C(C=CC1)C1=CC=CC=C1 | C24H19NO2
reactant | N-bromosuccinamide | 15 mmol, 2.67 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | AcOH | 68 mL | CC(=O)O | C2H4O2
product | 3-(benzyloxy)-1-(biphenyl-3-yl)-5-bromopyridin-4(1H)-one | C(C1=CC=CC=C1)OC1=CN(C=C(C1=O)Br)C=1C=C(C=CC1)C1=CC=CC=C1 | C24H18BrNO2
